US05783704
(4-Methyl-2-oxoimidazolidin-1-yl)acetamide (Compound 4.025 in Table 4)
1.6 g of Rh/C are added to a solution of 7.8 g of (4-methyl-2-oxo-1,3-dihydroimidazol-1-yl)acetamide in 80 ml of methanol and the reaction mixture is treated with hydrogen at 3 bar. After 30 minutes, 1.13 litres of hydrogen have been taken up and the reaction has ceased. The reaction mixture is then filtered over Celite and concentrated by evaporation. The residue is dissolved in methylene chloride, magnesium sulfate is added thereto, followed by filtration over Celite and concentration by evaporation. The residue is stirred with ether. The crystals are filtered off with suction and dried in vacuo at 60°. 7.3 g of the title compound having a melting point of 124°-127 are thus obtained.

reactant | (4-methyl-2-oxo-1,3-dihydroimidazol-1-yl)acetamide | 7.8 g | CC=1NC(N(C1)CC(=O)N)=O | C6H9N3O2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1.13 litres | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | Rh/C | 1.6 g | [Rh] | Rh
product | (4-Methyl-2-oxoimidazolidin-1-yl)acetamide | CC1NC(N(C1)CC(=O)N)=O | C6H11N3O2
